US05387685
2-[7-(3,4-Dimethoxyphenyl)-7-[(4-methylphenyl)thio]-heptyl]-2,3-dihydro-5,6-dimethoxy-1H-isoindole
A mixture of 1.79 g of 4-[6-bromo-1-[(4-methylphenyl)thio]heptyl]-1,2-dimethoxybenzene, 3.29 g of 5,6-dimethoxyisoindoline, 25 mL of acetonitrile, and 1.74 mL of N,N-diisopropylethylamine is heated under reflux for 2 days. The reaction is concentrated in vacuo and the black residue partitioned between chloroform and aqueous ammonia. The organic layer is dried (sodium sulfate) and the solvent removed at reduced pressure. Chromatography on silica gel with gradient elution progressing from hexane to chloroform to methyl alcohol, twice, gives 1.34 g of the desired product as a brown gum.

reactant | 4-[6-bromo-1-[(4-methylphenyl)thio]heptyl]-1,2-dimethoxybenzene | 1.79 g | BrC(CCCCC(SC1=CC=C(C=C1)C)C1=CC(=C(C=C1)OC)OC)C | C22H29BrO2S
reactant | 5,6-dimethoxyisoindoline | 3.29 g | COC=1C=C2CNCC2=CC1OC | C10H13NO2
reactant | N,N-diisopropylethylamine | 1.74 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
product | 2-[7-(3,4-Dimethoxyphenyl)-7-[(4-methylphenyl)thio]-heptyl]-2,3-dihydro-5,6-dimethoxy-1H-isoindole | 1.34 g | COC=1C=C(C=CC1OC)C(CCCCCCN1CC2=CC(=C(C=C2C1)OC)OC)SC1=CC=C(C=C1)C | C32H41NO4S
